US07179823B1
A mixture of ethyl 3-[3-ethoxy-1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-1H-pyrazol-4-yl]propionate (769 mg), 1 N aqueous sodium hydroxide solution (4 ml), tetrahydrofuran (8 ml), and ethanol (8 ml) was stirred at room temperature for 3 hours, diluted with 1 N hydrochloric acid (4 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and 3-[3-ethoxy-1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-1H-pyrazol-4-yl]propionic acid (402 mg, yield: 56%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate.

reactant | ethyl 3-[3-ethoxy-1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-1H-pyrazol-4-yl]propionate | 769 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCCN(C1=NC=CC=C1)C | C25H32N4O4
reactant | sodium hydroxide | 1 N, 4 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
reactant | ethanol | 8 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 N, 4 ml | Cl | ClH
product | 3-[3-ethoxy-1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-1H-pyrazol-4-yl]propionic acid | 402 mg, yield: 56% | C(C)OC1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCCN(C1=NC=CC=C1)C | C23H28N4O4
